US08034812B2
Production of N-(5-{[2-(but-2-ynoylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}-2-methylphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide
In the same manner as in Example 279 and using but-2-ynoic acid (46 mg, 0.54 mmol), tetrahydrofuran (1.5 mL), N,N-dimethylformamide (1 drop), oxalyl chloride (47 μL, 0.54 mmol), N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide hydrochloride (150 mg, 0.36 mmol) and N,N-dimethylacetamide (5 mL) as starting materials, the title compound (60 mg, 37%) was obtained as a white solid.

reactant | but-2-ynoic acid | 0.54 mmol, 46 mg | C(C#CC)(=O)O | C4H4O2
reactant | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
reactant | oxalyl chloride | 0.54 mmol, 47 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide hydrochloride | 0.36 mmol, 150 mg | Cl.NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)C)C1
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | N-(5-{[2-(but-2-ynoylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}-2-methylphenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | 60 mg, 37% | C(C#CC)(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)C)C1 | C23H21N7O3
